US04044017
0.50 g of 5-chloro-2-{[(N-benzyloxycarbonyl-L-phenylalanyl)aminomethyl]-5-methyl-4H-1,2,4-triazol-4-yl}benzophenone was treated with a 35% solution of hydrogen bromide in glacial acetic acid for 1 hour. Dry diethyl ether was then added and the separated solid was filtered off, washed with ether and dried in vacuo. The crude product was purified by precipitation from methanol/ethyl acetate. There was obtained 0.36 g (79%) of 5-chloro-2-[3-(L-phenylalanylaminomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone dihydrobromide of melting point 164°-171° C (slow decomposition).

reactant | 5-chloro-2-{[(N-benzyloxycarbonyl-L-phenylalanyl)aminomethyl]-5-methyl-4H-1,2,4-triazol-4-yl}benzophenone | 0.50 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CNC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C34H30ClN5O4
reactant | hydrogen bromide | Br | BrH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-chloro-2-[3-(L-phenylalanylaminomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone dihydrobromide | 0.36 g, 79% | Br.Br.ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CNC([C@@H](N)CC1=CC=CC=C1)=O | InChI=1S/C26H24ClN5O2.2BrH/c1-17-30-31-24(16-29-26(34)22(28)14-18-8-4-2-5-9-18)32(17)23-13-12-20(27)15-21(23)25(33)19-10-6-3-7-11-19;;/h2-13,15,22H,14,16,28H2,1H3,(H,29,34);2*1H/t22-;;/m0../s1
